### PR TITLE
feat(mathematics): add the degree-wise linear universal property of the symmetric algebra

### PR DESCRIPTION
**Pull request by nateabr**
Adds symmetric multilinear maps, symmetric-algebra monomials, and the degree-wise linear universal property of the symmetric algebra.

### CODE REVIEW

File: Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean [hunk 1]
```diff
@@ -0,0 +1,476 @@
...
+import Mathlib.Algebra.DirectSum.Module
+public import Physlib.Mathematics.SymmetricAlgebra.SymmetricMap
+-- `TensorAlgebra.symRingCon` is `@[no_expose]`, so a plain `public import` does not expose its
+-- body and `symRingCon = ringConGen (SymRel ..)` is not available. This private `import all`
+-- supplies it.
+import all Mathlib.LinearAlgebra.SymmetricAlgebra.Basic
+
+/-!
+# Symmetric monomials and the lift out of the symmetric algebra
+
```
Comment (jstoobysmith) [inline Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean:21]: Is this also from a Mathlib PR, if so I think we should put right at the top of the doc-string, what PR and who the author is.

Comment (nateabr) [reply Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean:21]: I added the author to symmetricmap.lean as that was from a mathlib PR, this file was not from a mathlib PR though

**Comment by nateabr** [comment]
-awaiting-author

File: Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean [hunk 2]
```diff
@@ -0,0 +1,476 @@
...
+factors `a * _ * b`. Passing to `Qcon`, the largest ring congruence on which `Lhat` is constant,
+then turns that invariance into compatibility with `symRingCon`.
+-/
+
+section Construction
+
+variable (f : ∀ n, SymmetricMap R M N (Fin n))
+
+/-- The linear map on the tensor algebra assembled from the degreewise symmetric maps. -/
+private noncomputable def Lhat : TensorAlgebra R M →ₗ[R] N :=
```
Comment (jstoobysmith) [inline Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean:291]: Is there an analogy for this to `ExteriorAlgebra`? I'm wondering about the choice of name

File: Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean [hunk 3]
```diff
@@ -0,0 +1,476 @@
...
+is symmetric. -/
+private lemma Lhat_tprod_perm (n : ℕ) (v : Fin n → M) (e : Equiv.Perm (Fin n)) :
+    Lhat f (TensorAlgebra.tprod R M n (fun i => v (e i)))
+      = Lhat f (TensorAlgebra.tprod R M n v) := by
+  rw [Lhat_tprod, Lhat_tprod]
+  exact (f n).map_perm e v
+
+/-- The largest ring congruence on which `Lhat f` is constant: it relates `u` and `w` when
+`Lhat f (a * u * b) = Lhat f (a * w * b)` for all `a` and `b`. -/
+private def Qcon : RingCon (TensorAlgebra R M) where
```
Comment (jstoobysmith) [inline Physlib/Mathematics/SymmetricAlgebra/OfSymmetric.lean:313]: Likewise, wondering about this choice of name.
